US04546098
3-Methylene-androst-4-ene-19-ol-17-one--Compound 9
To a solution of methyltriphenylphosphonium bromide (8 m mol) in anhydrous ether, n-butyl lithium (8 m mol) in n-hexane was added slowly with stirring at room temperature under nitrogen. The mixture was stirred for 20 minutes, androst-4-ene-19-ol-3,17-dione 19-acetate (1 m mol) dissolved in anhydrous ether was added, and the mixture stirred overnight. The ether was removed by distillation under nitrogen, and replaced by anhydrous tetrahydrofuran. The mixture was refluxed for 1.5 hours, diluted with chilled water, extracted with ethyl acetate, washed with water, dried over anhydrous sodium sulfate, filtered, and evaporated under vacuum. The product was purified by silica gel chromatography using n-hexane-ethyl acetate as a solvent.

reactant | androst-4-ene-19-ol-3,17-dione 19-acetate | C(C)(=O)OC[C@]12CCC(C=C1CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O | C21H28O4
catalyst | methyltriphenylphosphonium bromide | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ether | CCOCC | C4H10O
solvent | n-butyl lithium | C(CCC)[Li]
solvent | n-hexane | CCCCCC | C6H14
product | 3-Methylene-androst-4-ene-19-ol-17-one | C=C1C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)CO)=O | C20H28O2
